US05073641
N-(BENZOYLOXYMETHYLCARBONYL)PYRROLIDONE
A mixture of (benzoyloxy)acetyl chloride (1.98 g, 0.01 mole), pyrrolidone (0.85 g, 0.01 mole) and pyridine (0.8 g, 0.01 mole) in acetone (10 ml) was refluxed for 3 h. The cooled mixture was filtered and evaporated in vacuo. The residue was dissolved in ethyl acetate (50 ml) and the solution washed with a 2% aqueous solution of sodium bicarbonate, 2M hydrochloric acid and water. After drying over anhydrous sulphate, the organic phase was evaporated under reduced pressure to give a residue which crystallized by addition of ether. Recrystallization from ether-petroleum ether yielded 1.6 g (65%) of the title compound. Mp 83°-84° C.

reactant | (benzoyloxy)acetyl chloride | 0.01 mole, 1.98 g | C(C1=CC=CC=C1)(=O)OCC(=O)Cl | C9H7ClO3
reactant | pyrrolidone | 0.01 mole, 0.85 g | N1C(CCC1)=O | C4H7NO
reactant | pyridine | 0.01 mole, 0.8 g | N1=CC=CC=C1 | C5H5N
solvent | acetone | 10 ml | CC(=O)C | C3H6O
product | N-(BENZOYLOXYMETHYLCARBONYL)PYRROLIDONE | 1.6 g, 65% | C(C1=CC=CC=C1)(=O)OCC(=O)N1C(CCC1)=O | C13H13NO4
